US05856309
To an ice-cooled solution of 214 mg (0.75 mmol) 3-(2-amino-2-ethoxycarbonyl-ethyl)-2,5-dihydropyrrole-1-carboxylic acid tert.-butylester and 119 mg (1.5 mmol) pyridine in 2 ml methylene chloride was added a small amount of DMAP followed by 212 mg (1mmol) 2,2,2-trichloroethoxycarbonyl chloride. The mixture was allowed to warm to room temperature overnight. The mixture was diluted with ether, washed with water, sat. CuSO4, water and brine, dried over MgSO4 and evaporated. Purification of the residue by flash-chromatography (elution with petrol ether/ethyl acetate 3:1) gave 320 mg (93%) 3 -[2-(2,2,2-trichloroethoxycarbonyl-amino)-2-ethoxycarbonyl-ethyl]-2,5-dihydropyrrole-1-carboxylic acid tert.-butylester as a colorless oil, which was immediately used for the next step.

reactant | 3-(2-amino-2-ethoxycarbonyl-ethyl)-2,5-dihydropyrrole-1-carboxylic acid tert.-butylester | 0.75 mmol, 214 mg | C(C)(C)(C)OC(=O)N1CC(=CC1)CC(C(=O)OCC)N | C14H24N2O4
reactant | pyridine | 1.5 mmol, 119 mg | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethoxycarbonyl chloride | 1mmol, 212 mg | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ether | CCOCC | C4H10O
product | 3 -[2-(2,2,2-trichloroethoxycarbonyl-amino)-2-ethoxycarbonyl-ethyl]-2,5-dihydropyrrole-1-carboxylic acid tert.-butylester | 320 mg, 93% | C(C)(C)(C)OC(=O)N1CC(=CC1)CC(C(=O)OCC)NC(=O)OCC(Cl)(Cl)Cl | C17H25Cl3N2O6
